US04634705
1-Cyano-5-methoxy-(3,4-dihydronaphthalene)
Trimethylsilyl cyanide (28.2 g) and a catalytic amount of aluminum trichloride was added to a toluene solution of 5-methoxy-1-tetralone (25 g) and the reaction heated for 2 hours. The solution was evaporated to dryness. Pyridine (100 ml) was then added, followed by dropwise addition of phosphorous oxychloride (40 ml). Upon complete addition the reaction was heated to 120° C. for 2 hours. The reaction was cooled and poured onto ice containing aqueous hydrochloric acid. The mixture was extracted with ether (100 ml). The organic layer was separated, dried, filtered and evaporated affording the desired product as an oil which solidified upon standing.

reactant | Trimethylsilyl cyanide | 28.2 g | C[Si](C)(C)C#N | C4H9NSi
reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 5-methoxy-1-tetralone | 25 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Cyano-5-methoxy-(3,4-dihydronaphthalene) | C(#N)COC1=C2CCC=CC2=CC=C1 | C12H11NO
